US04062868
A solution of 108.13 g (.433 mole) of 3-[2,2-diethoxyethyl)thio]-1-cycloheptene in 1000 ml of acetone/water, 9:1 was treated with 1.1 g of p-toluenesulfonic acid hydrate and heated under reflux for 1.0 hour, cooled, and concentrated. The residue was partitioned between ether/10% sodium bicarbonate. The aqueous phase was further extracted with ether. The organic extracts were pooled, dried over magnesium sulfate, and evaporated to afford 75.30 g (.443 mole, 100%) of 2-[(1-cyclohepten-3-yl)thio]acetaldehyde as a colorless oil.

reactant | 1-cycloheptene | C1=CCCCCC1 | C7H12
reactant | p-toluenesulfonic acid hydrate | 1.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone water | 1000 ml | CC(=O)C.O
product | 2-[(1-cyclohepten-3-yl)thio]acetaldehyde | .443 mole, 75.30 g, 100% | C1=CC(CCCC1)SCC=O | C9H14OS
